US07605147B2
Synthesis of 1,1-cyclopropanedicarboxylic acid
In 50% NaOH 187 ml was dissolved 15 g of diethylmalonate at room temperature. Benzyltriethylammoniumchloride (21.3 g) was added and the resulting mixture was stirred for 10 minutes. 1,2-Dibromoethane (12.3 g) was added to the reaction solution and the resulting mixture was stirred for more than 18 hours at room temperature. The reaction mixture was neutralized by adding dropwise conc. sulfuric acid and then extracted with ethyl acetate. The extract was distilled under reduced pressure to give 6.2 g of the title compound as a white solid.

reactant | diethylmalonate | 15 g | C(C)C(C(=O)[O-])(C(=O)[O-])CC
reactant | 1,2-Dibromoethane | 12.3 g | BrCCBr | C2H4Br2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | NaOH | 187 ml | [OH-].[Na+]
catalyst | Benzyltriethylammoniumchloride | 21.3 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 1,1-cyclopropanedicarboxylic acid | 6.2 g | C1(CC1)(C(=O)O)C(=O)O | C5H6O4
